US07932256B2
Triethylamine (115 mL) was added to a solution of methoxyacetic acid (35.0 g, 389 mmol) in CH2Cl2 (1200 mL) at room temperature. N,O-dimethylhydroxylamine hydrochloride (45.5 g, 467 mmol) was added, and after stirring for 5 min, the suspension was cooled to 0° C. Ethyl diazocarboxylate (EDC) (81.7 g, 428 mmol) was then added and the reaction mixture was stirred overnight while allowing it to warm to room temperature. The mixture was poured into a separatory funnel and diluted with CH2Cl2 (500 mL). The organic layer was washed with 1 N HCl (2×300 mL), saturated aqueous NaHCO3 solution (2×300 mL), and brine (300 mL). The resulting solution was dried over MgSO4, filtered and concentrated in vacuo. The product was purified by column chromatography on a short column of silica gel (5% methanol in CH2Cl2) to afford N,2-dimethoxy-N-methylacetamide (33.2 g, 64% yield) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 4.20 (s, 2H), 3.67 (s, 3H), 3.45 (s, 3H), 3.17 (s, 3H); 13C NMR (100 MHz, CDCl3) δ 173.0, 69.7, 69.4, 61.4, 59.4; LRMS (ESI) m/e 134.1 [(M+H)+, calcd for C5H12NO3 134.1].

reactant | Triethylamine | 115 mL | C(C)N(CC)CC | C6H15N
reactant | methoxyacetic acid | 389 mmol, 35.0 g | COCC(=O)O | C3H6O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 467 mmol, 45.5 g | Cl.CNOC
solvent | CH2Cl2 | 1200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | N,2-dimethoxy-N-methylacetamide | 33.2 g, 64% yield | CON(C(COC)=O)C | C5H11NO3
